US04889858
To a solution of 10 g of 3-fluoro-2-methylbenzoic acid [J. Org. Chem., 26, 3208 (1961)]in 300 ml of dimethylformamide are added 30 g of potassium carbonate and 30 g of ethyl iodide and the mixture is stirred at room temperature for 8 hours. After adding 500 ml of toluene, washing with water and a saturated saline solution and drying over magnesium sulfate, the solvent is distilled off under reduced pressure to give 11 g of ethyl 3-fluoro-2-methylbenzoate (oil). Mass spectrum m/z: 182(M+).

reactant | 3-fluoro-2-methylbenzoic acid | 10 g | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 30 g | C(C)I | C2H5I
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-fluoro-2-methylbenzoate | 11 g | FC=1C(=C(C(=O)OCC)C=CC1)C | C10H11FO2
